US07863332B2
b. Synthesis of 3-[2-cyclopropylmethoxy-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoic acid
In a manner similar to that of Example (19g), by reaction of 400 mg (10.0 mmol, 4.8 eq) of sodium hydroxide and methyl 3-[2-cyclopropylmethoxy-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoate, obtained in the preceding step, in 10 ml of a tetrahydrofuran/methanol mixture (8/2), and after crystallization from pentane, 426 mg of 3-[2-cyclopropylmethoxy-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoic acid are obtained in the form of a white powder (m.p.=64° C.). Yield=78% over the two steps

reactant | sodium hydroxide | 10.0 mmol, 400 mg, 4.8 eq | [OH-].[Na+]
reactant | methyl 3-[2-cyclopropylmethoxy-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoate | C1(CC1)COC1=C(C=CC(=C1)CCC(=O)OC)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C29H40N2O4
solvent | tetrahydrofuran methanol | 10 ml | O1CCCC1.CO
product | 3-[2-cyclopropylmethoxy-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoic acid | Yield=78% | C1(CC1)COC1=C(C=CC(=C1)CCC(=O)O)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C28H38N2O4
